Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ is a ___ with a PMHx of hypothyroidism, GERD and 
HTN who presented with chest pain. The patient notes CP that 
started 4d PTA that was dull in nature, without radiation. He 
notes pleuritic component as well as positional pain, with 
worsening of the pain with twisting movements and leaning 
forward. He does note worsening of the pain with exertion, but 
denies any pain with exertion prior to the onset of his 
symptoms, and denies a prior history of CP or DOE or at rest. He 
saw his PCP who felt his EKG was changed from prior, and they 
felt that he needed additional testing, and sent him to the ED.

Notably, the patient has no history of personal malignancy or 
TB. He has not been incarcerated and has not had homelessness. 
Last sexual contact was with a female partner 6d PTA. 

In the ED, initial vitals were:  
99.7 75 131/73 16 96% RA 
 - Exam notable for:  
none documented
 - Labs notable for:  
CRP >300, mild anemia at 11.9
 - Imaging was notable for: 
See below for full imaging details. Notably, no acute 
intrathoracic process or findings suggestive of ACS on stress 
testing
 - Patient was given:  
___ 13:52 PO Aspirin 324 mg 
___ 08:21 PO/NG amLODIPine 5 mg   
___ 08:21 PO/NG Levothyroxine Sodium 150 mcg  
___ 08:21 PO Omeprazole 20 mg  
___ 09:06 PO Levofloxacin 750 mg 
 
Past Medical History:
Hypothyroidism 
TOBACCO DEPENDENCE(aka SMOKER) 
Screen for colon cancer 
Polysubstance abuse 
Abnormal EKG 
Overweight 
Hypertension 
 
Social History:
___
Family History:
No family history of premature cardiac disease or rheumatologic 
disorders
 
Physical Exam:
ADMISSION PHYSCIAL EXAM
98.0 71 111/65 24 94% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
Neck: Supple. JVP at clavicle at 30 degrees, negative HJR. no 
LAD  
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE PHYSICAL EXAM
VS: 98.3, 109/71, 72, 16, 95%RA  
GENERAL: NAD  
HEENT: AT/NC, no conjunctival injection/erythema
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: no gross motor/coordination abnormalities
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION/IMPORTANT LABS
___ 12:35PM BLOOD WBC-8.2 RBC-3.92* Hgb-11.9* Hct-36.2* 
MCV-92 MCH-30.4 MCHC-32.9 RDW-13.4 RDWSD-45.1 Plt ___
___ 12:35PM BLOOD Neuts-65.7 ___ Monos-12.7 
Eos-0.5* Baso-0.1 Im ___ AbsNeut-5.39 AbsLymp-1.69 
AbsMono-1.04* AbsEos-0.04 AbsBaso-0.01
___ 09:46AM BLOOD ___ PTT-32.1 ___
___ 06:20AM BLOOD ___ PTT-31.9 ___
___ 06:20AM BLOOD Ret Aut-1.6 Abs Ret-0.06
___ 12:35PM BLOOD Glucose-90 UreaN-11 Creat-1.1 Na-136 
K-3.9 Cl-97 HCO3-24 AnGap-19
___ 06:20AM BLOOD ALT-33 AST-28 AlkPhos-72 TotBili-1.0
___ 12:35PM BLOOD cTropnT-<0.01
___ 07:27PM BLOOD cTropnT-<0.01
___ 06:20AM BLOOD Calcium-9.2 Phos-4.0 Mg-2.3 Iron-26*
___ 09:46AM BLOOD D-Dimer-5281*
___ 06:20AM BLOOD calTIBC-192* Ferritn-698* TRF-148*
___ 06:20AM BLOOD TSH-6.7*
___ 06:20AM BLOOD Free T4-1.1
___ 06:20AM BLOOD HIV Ab-Negative
___ 06:20AM BLOOD HIV1 VL-NOT DETECT

DISCHARGE LABS
___ 01:00PM BLOOD WBC-6.7 RBC-3.82* Hgb-11.5* Hct-34.9* 
MCV-91 MCH-30.1 MCHC-33.0 RDW-13.2 RDWSD-44.4 Plt ___
___ 06:20AM BLOOD Glucose-104* UreaN-12 Creat-1.1 Na-138 
K-4.4 Cl-101 HCO3-27 AnGap-14
___ 06:20AM BLOOD Calcium-9.2 Phos-4.0 Mg-2.3 Iron-26*

STUDIES/IMAGING
--------------------
CXR ___:
Bibasilar patchy opacities may reflect atelectasis, though 
infection in the 
left lung base is not completely excluded.  Trace left pleural 
effusion. 

CARDIAC PERFUSION ___:
Rest perfusion images demonstrated no perfusion defects.

CTA ___:
1. Somewhat limited assessment of the subsegmental pulmonary 
arteries in the 
left lower lobe due to motion degradation from respiration.  
Otherwise, no 
evidence of pulmonary embolism or acute aortic abnormality. 
2. Moderate pericardial effusion.  In some areas, it measures 
greater than 
simple fluid and underlying hemopericardium is not excluded. 
3. Small bilateral left greater than right pleural effusions. 
4. Main pulmonary artery is mildly dilated measuring 3.3 cm in 
maximal 
diameter.  This may represent underlying pulmonary hypertension. 


TTE ___:
The left atrial volume index is moderately increased. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Normal left ventricular wall 
thickness, cavity size, and regional/global systolic function 
(biplane LVEF = 61 %). The estimated cardiac index is normal 
(>=2.5L/min/m2). The aortic arch is mildly dilated. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is high normal. There is a small circumferential pericardial 
effusion. There are no echocardiographic signs of tamponade. 

 IMPRESSION: Small circumferential pericardial effusion without 
echocardiographic signs of tamponade. Normal biventricular 
cavity sizes with preserved regional and global biventricular 
systolic function. Mildly dilated aortic arch. Biatrial 
enlargement. 
 
Brief Hospital Course:
___ is a ___ with a PMHx of hypothyroidism, GERD and 
HTN who presented with chest pain with an elevated CRP, diffuse 
ST elevations, pericardial effusion, and concerning for 
pericarditis.

#Pericarditis
#Pericardial effusion
Mr. ___ presented with multiple days of positional and 
pleuritic chest pain. CTA was negative for PE, but with moderate 
pericardial effusion, cannot exclude hemopericardium, and small 
bilateral pleural effusions. He also had mildly dilated 
pulmonary artery at 3.3cm. EKG findings with ST elevations in 
multiple vascular territories. CRP was elevated. These findings 
were consistent with a diagnosis of pericarditis, possibly viral 
in nature given his recent non-productive cough. He had no TB 
risk factors or symptoms. Pulsus paradoxus was not elevated at 
4. TTE was done as an inpatient and revealed small 
circumferential pericardial effusion without echocardiographic 
signs of tamponade. His Hgb remained stable but was low (anemia 
discussed below). He was not started on indomethacin out of 
concern for hemopericardium given CTA and anemia, although this 
is unlikely. Colchicine 0.6 BID was started and he was 
discharged for plan for close cardiology follow up and repeat 
echocardiogram. HIV was pending at time of discharge.

#Normocytic Anemia: Unclear etiology. ___ be due to underlying 
chronic inflammatory process. Reticulocyte index is 1.35, 
indicating an underproduction of reticulocytes. Iron was low at 
26, and ferritin was elevated at 698. There was concern for 
hemopericardium, which is why indomethacin was held. Hgb 
remained stable making hemopericardium less likely. Consider 
further workup of anemia of inflammation as an outpatient if 
persists.

CHRONIC ISSUES: 
#Hypothyroidism: TSH elevated at 6.7 and free T4 normal at 1.1. 
He was continued on home levothyroxine. Consider repeat thyroid 
studies as an outpatient.

#GERD: Continued omeprazole

#HTN: Held amlodipine during this admission, re-started at 
discharge

===============================
TRANSITIONAL ISSUES
=============================== 
[ ] Colchicine 0.6 BID was started.
[ ] Close cardiology follow up.
[ ] Repeat echocardiogram in the next week to assess for 
resolving effusion.
[ ] HIV test was pending at time of discharge.
[ ] TSH elevated at 6.7 and free T4 normal at 1.1. Consider 
repeat thyroid studies as an outpatient.
[ ] Consider further workup of anemia of inflammation as an 
outpatient if persists.

#CODE: Full (presumed)
#DISPO: Name of health care proxy: ___
Relationship: sister
Phone number: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Cialis (tadalafil) 20 mg oral prn 
3. Levothyroxine Sodium 150 mcg PO DAILY 
4. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Colchicine 0.6 mg PO BID 
RX *colchicine 0.6 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Cialis (tadalafil) 20 mg oral prn  
4.  Levothyroxine Sodium 150 mcg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Pericarditis, likely viral in etiology

Secondary:
- Pericardial effusion without tamponade
- Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you were having 
chest pain.

WHILE YOU WERE HERE:
- You were found to have "pericarditis." This is inflammation of 
the tissue layer around the heart.
- You were found to have a "pericardial effusion." This is fluid 
around the heart.
- Your heart pumping function was not affected by the fluid.
- This can be caused by a virus, but often, we do not know why 
people get this condition.
- You had low blood counts, which were stable during the 
admission.
- You were started on a new medication called colchicine.

WHEN YOU GO HOME:
- Please take the colchicine.
- Your follow up plan and medications are below. Please follow 
up with your primary care doctor and cardiologist.

It was a pleasure taking care of you and we wish you good 
health.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___